data/oMe_Silver.jsonl
{"reaction_id": "NR-323_1-CC_2-C(F)(F)F_3-C_4-CC_5-C_6-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","level": "easy","name": "Wittig Rearrangement-[2,3]","reactants_smiles": ["C(CC)(C(F)(F)F)=C(C)C(CC)(C)OCCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","CCCC[Li]"],"products_smiles": ["OC(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CC)(C(F)(F)F)C(C)=C(CC)(C)"],"conditions": "1. Strong Base (e.g., n-BuLi); 2. H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(C(F)(F)F)=C(C)C(CC)(C)O[CH-]CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","step_weight": 0,"rationale": "n-BuLi, a strong base, abstracts the relatively acidic α-proton adjacent to oxygen due to inductive electron withdrawal and stabilization of the resulting alkoxide by oxygen."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "[O-]C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CC)(C(F)(F)F)C(C)=C(CC)(C)","step_weight": 0,"rationale": "The alkoxide undergoes a [2,3]-sigmatropic rearrangement, favored by orbital symmetry and relief of electron density through concerted bond reorganization, forming a more stable carbon–carbon bond adjacent to oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(CC)(C(F)(F)F)C(C)=C(CC)(C)","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation in protic conditions."}],"description": "A strong base deprotonates the α-position to oxygen, generating an alkoxide that undergoes a concerted [2,3]-sigmatropic rearrangement. This rearrangement shifts the carbon framework, forming a new C–C bond. Subsequent protonation yields the rearranged alcohol product."}
{"reaction_id": "NR-141_1-c1ccc(F)cc1_2-c1ccc(Cl)cc1","name": "Meerwein-Ponndorf-Verley Reduction","level": "medium","reactants_smiles": ["C(=O)(c1ccc(F)cc1)(c1ccc(Cl)cc1)"],"products_smiles": ["C(O)(c1ccc(F)cc1)(c1ccc(Cl)cc1)"],"conditions": "Al(Oi-Pr)3, i-PrOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Al-](OC(C)C)(OC(C)C)OC(C)C)(c1ccc(F)cc1)(c1ccc(Cl)cc1)","rationale": "Aluminum acts as a strong Lewis acid, coordinating to the carbonyl oxygen and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic hydride transfer."},{"step": 2,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(O[Al](OC(C)C)OC(C)C)(c1ccc(F)cc1)(c1ccc(Cl)cc1)","rationale": "A six-membered cyclic transition state allows concerted hydride transfer from the α-carbon of isopropoxide to the activated carbonyl carbon, favored by chelation and minimal ring strain."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(O)(c1ccc(F)cc1)(c1ccc(Cl)cc1)","rationale": "Proton transfer from the coordinated alkoxide to the oxygen regenerates the aluminum isopropoxide catalyst and releases the neutral alcohol product."}],"description": "The carbonyl coordinates to aluminum isopropoxide, increasing electrophilicity. A six-membered cyclic transition state enables hydride transfer from isopropoxide to the carbonyl carbon, reducing it to an alcohol. Proton transfer regenerates the catalyst and releases the product."}
